Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L sided numbness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old right handed previously healthy
female who presented to ___ for left sided 
numbness.

Pt reports that she was in her usual state of health this
morning.  She was helping her husband clean the basement.  She
denies lifting any heavy objects.  She states she was just
looking through and sorting baby clothes and children Hall___
costumes.  At around 11:45am, she was bending over to pick up 
her
dog's feces when she suddenly felt her left neck, left arm and
left leg down to her knee go numb.  All the symptoms came on at
once.  Her face was not numb, but she reports that later in the
episode, her jaw became numb.  She states it feels like she went
to the dentist and had Novocaine.  She also felt slightly dizzy
and "faint" but denies that she felt that the room was spinning
or rocking on a boat.  She denies any tingling or weakness.  Her
husband tried to test her strength and had her grab his fingers
and reportedly, strength was full.  After trying to lay down for
15 minutes to see if there was any improvement, she went to
___ to be evaluated.  The episode resolved in
approximately 3 hours while at ___. She was given ASA
325mg.  She had a CT head which was reportedly negative and she
was transferred to ___ ___ for further evaluation.   

On neurologic review of systems, the patient denies headache or
confusion. Denies difficulty with producing or comprehending
speech. Denies loss of vision, blurred vision, diplopia, 
vertigo,
tinnitus, hearing difficulty, dysarthria, or dysphagia. Denies
focal muscle weakness.  Denies bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.
 
Past Medical History:
None although possible HLD, but not on any current medications
 
Social History:
___
Family History:
Pt denies any family history of neurologic issues including
stroke, seizures or migraines
 
Physical Exam:
PHYSICAL EXAMINATION
Vitals:  T:98.1   HR:77   BP:120/76   RR:16   SaO2:99% on RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR
Pulmonary: Breathing comfortably on RA
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented x 3. Attention to
examiner easily maintained. Recalls a coherent history. Able to
recite months of year backwards. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Content of speech demonstrates intact naming (high and low
frequency) and no paraphasias. Normal prosody. Has an accent as
her first language is ___.  No dysarthria. Verbal 
registration
and recall ___. No apraxia. No evidence of hemineglect. No
left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, temperature and
proprioception bilaterally.

-DTRs:
  Bi Tri ___ Pat 
L  2  2    2    2   
R  2  2    2    2   
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.

 
Pertinent Results:
___ 09:42PM   GLUCOSE-89 UREA N-12 CREAT-0.7 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-25 ANION GAP-16
___ 09:42PM   estGFR-Using this
___ 09:42PM   ALT(SGPT)-13 AST(SGOT)-17 ALK PHOS-77 TOT 
BILI-0.4
___ 09:42PM   cTropnT-<0.01
___ 09:42PM   CALCIUM-9.4 PHOSPHATE-3.9 MAGNESIUM-2.1
___ 09:42PM   %HbA1c-5.4 eAG-108
___ 09:42PM   TSH-2.6
___ 09:42PM   WBC-6.6 RBC-3.95 HGB-11.9 HCT-35.5 MCV-90 
MCH-30.1 MCHC-33.5 RDW-13.1 RDWSD-43.1
___ 09:42PM   PLT COUNT-291
___ 09:42PM   ___ PTT-31.1 ___

___ 09:42PM BLOOD %HbA1c-5.4 eAG-108
___ 03:50PM BLOOD Triglyc-93 HDL-61 CHOL/HD-3.5 
LDLcalc-136*
___ 09:42PM BLOOD TSH-2.6

MRV pelvis:
No deep vein thrombosis in the pelvis.

LENIS:
No evidence of deep venous thrombosis in the lower extremity 
veins.

CXR: 
Heart size is normal.  Mediastinum is normal.  Lungs are clear.  
There is no pleural effusion or pneumothorax. 

CTA head and neck:
1. Normal CT of the head. 
2. Patent vasculature in the neck with no evidence of internal 
carotid artery stenosis by NASCET criteria. 
3. No acute intracranial abnormality. 

MRI head
1. No acute infarct or intracranial hemorrhage. 
2. There are punctate foci diffusion-weighted and FLAIR 
hyperintense 
hyperintense signal of the right precentral and postcentral 
gyrus without 
evidence a ADC map hypointensity.  These may represent subacute 
infarcts 
versus T2 shine. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old right handed woman with a ? history 
of HLD who presented with a 3 hour episode of L sided "numbness" 
extending from her L chin to her L arm and into her L leg (but 
stopping at the knee). Further history revealed that there was 
likely a component of weakness or arm heaviness to her 
presentation as well. By the time of evaluation in the ___ she 
was back to her baseline, and neuro exam was normal. MRI brain 
showed tiny acute strokes in the L arm motor and sensory cortex, 
consistent with a small embolic stroke with quick resolution of 
symptoms. Given the history that the patient was bending down 
and suddenly had onset of symptoms, there was strong suspicion 
for ASD or PFO. She was admitted on a holiday weekend so got 
LENIs and MRV which were negative with plan for outpatient Echo. 
If PFO/ASD is confirmed she will need hypercoagulability work 
up. She was started on ASA 81 mg in the hospital. LDL was 
elevated at 136 so she was started on atorvastatin for stroke 
prevention.

She was discharged with a plan for outpatient echo, ___ 
monitoring, and possible hypercoag work up.

She endorsed snoring at night and daytime sleepiness. Sleep 
apnea is a risk factor for stroke and for atrial fibrillation, 
so she will need an outpatient work up for OSA.

The patient's symptoms had resolved and she was back to her 
baseline with normal walking on neuro exam, so ___ evaluation 
was not needed.

TRANSITIONAL ISSUES:
- outpatient TTE, if this is negative for PFO will need a TEE
- outpatient ___ of Hearts monitor to rule out afib
- follow up with Dr. ___
- cont ASA 81 for stroke prevention
- Follow up MRV final read
- Follow up repeat LDL, goal < 100, started statin
- outpatient work up for OSA with sleep study
- Follow up with PCP

___ Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 136) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: atorva 20 given since LDL was only 
elevated to 136 and atorva 20 will likely control LDL to goal of 
< 100]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No : The patient's symptoms had resolved and she 
was back to her baseline with normal walking on neuro exam, so 
___ evaluation was not needed. 
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - ASA () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6
2. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*6

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cerebral embolism with infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of L sided numbness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- possible PFO (a hole in your heart) - we will get an 
outpatient echo for this
- hyperlipidemia
- possible obstructive sleep apnea (will get outpatient work up)
 
We are changing your medications as follows:  
- start aspirin 81 mg
- start atorvastatin 20 mg
 
Please take your other medications as prescribed.  
 
You left the hospital on a holiday weekend so we were not able 
to take care of all your scheduling for follow up tests. On 
___ morning, please call Cardiology ___ to 
schedule two outpatient tests 1) echocardiogram to look for a 
hole in your heart (PFO) and 2) ___ of hearts monitor to wear 
for 30 days to look for any evidence of atrial fibrillation. 

Once you have heard from Cardiology about the timing of these 
studies, please call Dr. ___ Neurology to let me know the 
timing of the studies so he can follow up on them and let you 
know the results, and order any other tests if needed.

Please also follow up with your PCP, and arrange for an 
outpatient sleep study to look for evidence of obstructive sleep 
apnea.
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___